### PR TITLE
[Merged by Bors] - feat: generalize `Topology/OpenPartialHomeomorph/Basic` to `PartialHomeomorph`

### PR DESCRIPTION
**Pull request by scholzhannah**
This is a continuation of #39084.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/PartialHomeomorph/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,266 @@
...
+  constructor
+  · apply Topology.IsInducing.of_codRestrict (t := e.target) (by simp)
+    rw [← PartialEquiv.toEquiv_eq_codRestrict_restrict]
+    exact e.toHomeomorphSourceTarget.isInducing
+  · rw [restrict_eq, toFun_eq_coe e, e.injOn.injective_iff e.source (by simp)]
+    exact Subtype.val_injective
+
+/-- A partial homeomorphism whose source is all of `X` defines an embedding of `X` into
+`Y`. The converse is also true; see `IsEmbedding.toPartialHomeomorph`. -/
+theorem to_isEmbedding (h : e.source = Set.univ) : IsEmbedding e :=
```
Comment (grunweg) [inline Mathlib/Topology/PartialHomeomorph/Basic.lean]: Drive-by review comment from Christian Merten: this should be called `isEmbedding` --- the original `OpenPartialHomeomorph` lemma is also misnamed. Would you like to make a PR renaming it (or add it to this PR), or do you prefer me making one and asking you for review?

**Review by grunweg — COMMENTED** [review]
Just today, we were looking at making manifolds nicer to use and stumbled on your PR --- which proved just the lemma I wanted. In other words, thanks a lot for doing this, it's great. I hope to review this soon (but given that so many things in Paris cry for being discussed in person, this might take until next week).

I just have one comment for now.

File: Mathlib/Logic/Equiv/PartialEquiv.lean [hunk 2]
```diff
@@ -280,6 +280,14 @@ protected def toEquiv : e.source ≃ e.target where
   left_inv := fun ⟨_, hx⟩ => Subtype.ext <| e.left_inv hx
   right_inv := fun ⟨_, hy⟩ => Subtype.ext <| e.right_inv hy
 
+lemma toEquiv_eq_codRestrict_restrict :
+    e.toEquiv = codRestrict (e.source.restrict e) e.target (by simp) :=
+  rfl
+
+lemma toEquiv_eq_codRestrict_restrict_invFun :
```
Comment (grunweg) [inline Mathlib/Logic/Equiv/PartialEquiv.lean]: I think the name should mention `symm`, and it probably doesn't have to mention `invFun`:
```suggestion
lemma toEquiv_symm_eq_codRestrict_restrict :
```

File: Mathlib/Topology/OpenPartialHomeomorph/Basic.lean [hunk 3]
```diff
@@ -122,14 +122,14 @@ theorem isOpen_image_iff_of_subset_source {s : Set X} (hs : s ⊆ e.source) :
...
 def ofContinuousOpenRestrict (e : PartialEquiv X Y) (hc : ContinuousOn e e.source)
     (ho : IsOpenMap (e.source.restrict e)) (hs : IsOpen e.source) : OpenPartialHomeomorph X Y where
-  toPartialEquiv := e
+  toPartialHomeomorph := PartialHomeomorph.ofContinuousOpenRestrict e hc ho
   open_source := hs
-  open_target := by simpa only [range_restrict, e.image_source_eq_target] using ho.isOpen_range
-  continuousOn_toFun := hc
-  continuousOn_invFun := e.image_source_eq_target ▸ ho.continuousOn_image_of_leftInvOn e.leftInvOn
+  open_target := by
+    simpa only [PartialHomeomorph.ofContinuousOpenRestrict_toPartialEquiv, range_restrict,
```
Comment (grunweg) [inline Mathlib/Topology/OpenPartialHomeomorph/Basic.lean]: Do you need to squeeze this, or can a bare `simpa using ...` work?

File: Mathlib/Topology/Constructions.lean [hunk 4]
```diff
@@ -533,6 +533,13 @@ theorem Continuous.codRestrict {f : X → Y} {s : Set Y} (hf : Continuous f) (hs
     Continuous (s.codRestrict f hs) :=
   hf.subtype_mk hs
 
+theorem continuous_codRestrict_iff {f : X → Y} {s : Set Y} (hs : ∀ a, f a ∈ s) :
+    Continuous (codRestrict f s hs) ↔ Continuous f := by
+  refine ⟨?_, fun hf ↦ Continuous.codRestrict hf hs⟩
```
Comment (grunweg) [inline Mathlib/Topology/Constructions.lean]:
```suggestion
  refine ⟨?_, fun hf ↦ hf.codRestrict hs⟩
```

**Review by grunweg — COMMENTED** [review]
Not in this PR: the module doc-string for `OpenPartialHomeomorph/Basic.lean` should be slightly updated now, to say something like
"`Topology.IsOpenEmbedding.toOpenPartialHomeomorph`: construct an open partial homeomorphism from an open embedding"

File: Mathlib/Topology/PartialHomeomorph/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,266 @@
...
+    e.source ∩ e ⁻¹' (e.target ∩ s) = e.source ∩ e ⁻¹' s :=
+  e.toPartialEquiv.source_inter_preimage_target_inter s
+
+theorem image_source_eq_target : e '' e.source = e.target :=
+  e.toPartialEquiv.image_source_eq_target
+
+theorem symm_image_target_eq_source : e.symm '' e.target = e.source :=
+  e.symm.image_source_eq_target
+
+/-- A `PartialEquiv` with continuous open forward map and open source is a `PartialHomeomorph`. -/
```
Comment (grunweg) [inline Mathlib/Topology/PartialHomeomorph/Basic.lean]:
```suggestion
/-- A `PartialEquiv` which is continuous on its source and has open forward map (on its source) is a `PartialHomeomorph`. -/
```

Can you also make the analogous rephrasing for `OpenPartialHomeomorph`?

File: Mathlib/Topology/PartialHomeomorph/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,266 @@
...
+    (ho : IsOpenMap (e.source.restrict e)) : ⇑(ofContinuousOpenRestrict e hc ho) = e :=
+  rfl
+
+@[simp]
+theorem coe_ofContinuousOpenRestrict_symm (e : PartialEquiv X Y) (hc : ContinuousOn e e.source)
+    (ho : IsOpenMap (e.source.restrict e)) :
+    ⇑(ofContinuousOpenRestrict e hc ho).symm = e.symm :=
+  rfl
+
+/-- A `PartialEquiv` with continuous open forward map and open source is a `PartialHomeomorph`. -/
```
Comment (grunweg) [inline Mathlib/Topology/PartialHomeomorph/Basic.lean]: Same below

File: Mathlib/Topology/PartialHomeomorph/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,266 @@
...
+  right_inv x :=
+    e.right_inv <| by
+      rw [h']
+      exact mem_univ _
+  continuous_toFun := by
+    simpa only [continuousOn_univ, h] using e.continuousOn
+  continuous_invFun := by
+    simpa only [continuousOn_univ, h'] using e.continuousOn_symm
+
+theorem isEmbedding_restrict : IsEmbedding (e.source.restrict e.toFun) := by
```
Comment (grunweg) [inline Mathlib/Topology/PartialHomeomorph/Basic.lean]: Can the proof of `OpenPartialHomeomorph.isOpenEmbedding_restrict` be simplified using this?

File: Mathlib/Topology/PartialHomeomorph/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,266 @@
...
+
+/-- A partial homeomorphism whose source is all of `X` defines an embedding of `X` into
+`Y`. The converse is also true; see `IsEmbedding.toPartialHomeomorph`. -/
+theorem to_isEmbedding (h : e.source = Set.univ) : IsEmbedding e :=
+  e.isEmbedding_restrict.comp
+    ((Homeomorph.setCongr h).trans <| Homeomorph.Set.univ X).symm.isEmbedding
+
+/-- If a `PartialEquiv` is a homeomorphism when restricted to source and target, then it is a
+`PartialHomeomorph`. -/
+def ofIsHomeomorphToEquiv (f : PartialEquiv X Y) (h : IsHomeomorph (f.toEquiv)) :
```
Comment (grunweg) [inline Mathlib/Topology/PartialHomeomorph/Basic.lean:189]: Note to self: this one does not exist for `OpenPartialHomeomorph`.

File: Mathlib/Topology/PartialHomeomorph/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,266 @@
...
+    PartialHomeomorph X Y where
+  toPartialEquiv := f
+  continuousOn_toFun := by
+    rw [continuousOn_iff_continuous_restrict,
+      ← continuous_codRestrict_iff (s := f.target) (by simp)]
+    have : codRestrict (f.target.restrict f.invFun) f.source (by simp) = f.toEquiv.symm := by
```
Comment (grunweg) [inline Mathlib/Topology/PartialHomeomorph/Basic.lean]: Wait, is this `have` unused?

File: Mathlib/Topology/PartialHomeomorph/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,266 @@
...
+@[simps! -fullyApplied apply source target]
+noncomputable def toPartialHomeomorph [Nonempty X] : PartialHomeomorph X Y :=
+  PartialHomeomorph.ofIsHomeomorphToEquiv (h.injective.injOn.toPartialEquiv f univ) (by
+    rw [isHomeomorph_iff_isEmbedding_surjective]
+    constructor
+    · rw [PartialEquiv.toEquiv_eq_codRestrict_restrict]
+      apply IsEmbedding.codRestrict
+      simp only [InjOn.toPartialEquiv.eq_1, restrict_eq]
+      exact h.comp subtypeVal
+    · exact Equiv.surjective _)
```
Comment (grunweg) [inline Mathlib/Topology/PartialHomeomorph/Basic.lean]: Here's golf:
```suggestion
    refine ⟨?_, Equiv.surjective _⟩
    rw [PartialEquiv.toEquiv_eq_codRestrict_restrict]
    apply IsEmbedding.codRestrict
    simpa [restrict_eq] using! h.comp subtypeVal)
```
I'm inlining the second subgoal, so you can get rid of the indentation (that's a bit optional).
I'm combining simp and exact into `simpa` (unsqueezed), that's also a bit optional.
I *do* care that this avoids using the auto-generated declaration `.....eq_1`; that relies too much on implementation details. There's even a mathlib linter for this.

File: Mathlib/Topology/PartialHomeomorph/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,266 @@
...
+
+@[simp]
+theorem partialHomeomorphSubtypeCoe_source :
+    (s.partialHomeomorphSubtypeCoe hs).source = Set.univ :=
+  rfl
+
+@[simp]
+theorem partialHomeomorphSubtypeCoe_target :
+    (s.partialHomeomorphSubtypeCoe hs).target = s := by
+  simp [partialHomeomorphSubtypeCoe]
```
Comment (grunweg) [inline Mathlib/Topology/PartialHomeomorph/Basic.lean:261]: While we're at it: can you unsqueeze the simp in `OpenPartialHomeomorph` the same way?

**Review by grunweg — COMMENTED** [review]
Thanks for doing this! I only have minor comments.
Can you also mention `IsEmbedding.toPartialHomeomorph` is the module doc-string?

File: Mathlib/Topology/OpenPartialHomeomorph/Basic.lean (hunk 3 above)
Comment (scholzhannah) [reply Mathlib/Topology/OpenPartialHomeomorph/Basic.lean]: Yes, unsqueezing works, thanks!

File: Mathlib/Topology/PartialHomeomorph/Basic.lean (hunk 7 above)
Comment (scholzhannah) [reply Mathlib/Topology/PartialHomeomorph/Basic.lean]: Yes, thanks!

File: Mathlib/Topology/PartialHomeomorph/Basic.lean (hunk 8 above)
Comment (scholzhannah) [reply Mathlib/Topology/PartialHomeomorph/Basic.lean:189]: Yes, I think I needed to add this for the proof of `IsEmbedding.toPartialHomeomorph`.

File: Mathlib/Topology/PartialHomeomorph/Basic.lean (hunk 9 above)
Comment (scholzhannah) [reply Mathlib/Topology/PartialHomeomorph/Basic.lean]: Yes, you're right. Thanks! Should have cleaned up better haha

File: Mathlib/Topology/PartialHomeomorph/Basic.lean (hunk 11 above)
Comment (scholzhannah) [reply Mathlib/Topology/PartialHomeomorph/Basic.lean:261]: Yes, thanks!

File: Mathlib/Topology/PartialHomeomorph/Basic.lean (hunk 1 above)
Comment (scholzhannah) [reply Mathlib/Topology/PartialHomeomorph/Basic.lean]: I'll make a separate PR for the renaming in `OpenPartialHomeomorph` and include the docstring change from below.

File: Mathlib/Logic/Equiv/PartialEquiv.lean [hunk 12]
```diff
@@ -280,6 +280,14 @@ protected def toEquiv : e.source ≃ e.target where
   left_inv := fun ⟨_, hx⟩ => Subtype.ext <| e.left_inv hx
   right_inv := fun ⟨_, hy⟩ => Subtype.ext <| e.right_inv hy
 
+lemma toEquiv_eq_codRestrict_restrict :
+    e.toEquiv = codRestrict (e.source.restrict e) e.target (by simp) :=
+  rfl
+
+lemma toEquiv_symm_eq_codRestrict_restrict :
+    e.toEquiv.symm = codRestrict (e.target.restrict e.invFun) e.source (by simp) := by
```
Comment (grunweg) [inline Mathlib/Logic/Equiv/PartialEquiv.lean]: Should this use `e.symm` instead?

**Comment by grunweg** [comment]
Thanks - one last comment!

File: Mathlib/Logic/Equiv/PartialEquiv.lean (hunk 12 above)
Comment (scholzhannah) [reply Mathlib/Logic/Equiv/PartialEquiv.lean]: That has a different type. I could do `e.symm.toEquiv` but I want this lemma to show something about `PartialEquiv.toEquiv`, so I don't think that is sensible. Or do you mean something else?

Comment (grunweg) [reply Mathlib/Logic/Equiv/PartialEquiv.lean]: Ah, that's fair. In this case, let's merge as-is.

**Comment by grunweg** [comment]
Can you fix the deprecation warnings? It seems there are still some. (Then, I'll merge this PR.)

**Comment by grunweg** [comment]
One line length warning, then you should be good to go.
bors d+

**Comment by scholzhannah** [comment]
Thank you for your patience! 

bors r+
